US07511136B2
6-Methoxy-1H-indazol-3-amine
To an ice-cooled suspension of 66.35 g (0.448 mol) of 2-amino-4-methoxybenzonitrile in 530 ml of concentrated HCl, a solution of 37.07 g (0.537 mol) of sodium nitrite in 55 ml of water was added dropwise. After 1.5 hours the cold suspension was added dropwise to a preformed solution of 679.25 g (3.58 mol) of stannous chloride in 530 ml of concentrated hydrochloric acid (HCl), at SOC. After 3 hours the cold suspension was filtered and the moist solid was treated with 1.7 l of boiling water for 30 min. The hot cloudy solution was clarified by filtration through a cloth filter. The liquors were ice-cooled and treated dropwise with 0.8 l of 17% NaOH. The solid was filtered off and dried under vacuum at 50° C.: 67.2 g of product were obtained as light brown solid. Yield=91.9%. mp=195-197° C. dec. HPLC r.t. 1.9 [M+H]+=164

reactant | 2-amino-4-methoxybenzonitrile | 0.448 mol, 66.35 g | NC1=C(C#N)C=CC(=C1)OC | C8H8N2O
reactant | sodium nitrite | 0.537 mol, 37.07 g | N(=O)[O-].[Na+]
solvent | HCl | 530 ml | Cl | ClH
solvent | water | 55 ml | O | H2O
solvent | hydrochloric acid | 530 ml | Cl | ClH
product | 6-Methoxy-1H-indazol-3-amine | 67.2 g, Yield=91.9% | COC1=CC=C2C(=NNC2=C1)N | C8H9N3O
